US05128351
N-[2-[4-(Tetradecyloxy)phenyl]ethyl]-N-[3-(2-thiazolylmethyl)phenyl]acetamide monohydrochloride
To a solution of 300 mg of N-[2-[4-(tetradecyloxy)phenyl]ethyl]-N-[3-(2-thiazolylmethyl)phenyl]acetamide in 3 ml of ether is added 10 ml of ether saturated with hydrogen chloride. The resulting solid is collected by centrifugation, washed several times with ether and vacuum dried to give 200 mg of the desired product, m.p. 114°-118° C.

reactant | N-[2-[4-(tetradecyloxy)phenyl]ethyl]-N-[3-(2-thiazolylmethyl)phenyl]acetamide | 300 mg | C(CCCCCCCCCCCCC)OC1=CC=C(C=C1)CCN(C(C)=O)C1=CC(=CC=C1)CC=1SC=CN1 | C34H48N2O2S
reactant | hydrogen chloride | Cl | ClH
solvent | ether | 3 ml | CCOCC | C4H10O
solvent | ether | 10 ml | CCOCC | C4H10O
product | N-[2-[4-(Tetradecyloxy)phenyl]ethyl]-N-[3-(2-thiazolylmethyl)phenyl]acetamide monohydrochloride | 200 mg | Cl.C(CCCCCCCCCCCCC)OC1=CC=C(C=C1)CCN(C(C)=O)C1=CC(=CC=C1)CC=1SC=CN1 | InChI=1S/C34H48N2O2S.ClH/c1-3-4-5-6-7-8-9-10-11-12-13-14-25-38-33-20-18-30(19-21-33)22-24-36(29(2)37)32-17-15-16-31(27-32)28-34-35-23-26-39-34;/h15-21,23,26-27H,3-14,22,24-25,28H2,1-2H3;1H
